US06977262B2
4-(2-Chlorophenyl)-5-cyano-4,7-dihydro-6-(4-methyl-homopiperazin-1-yl)methyl-2H-pyrazolo[3,4-b]pyridine dihydrochloride
The title compound was prepared from 4-(2-chlorophenyl)-5-cyano-6-bromomethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine and N-methylhomopiperazine in the same manner as in Example 1076.

reactant | 4-(2-chlorophenyl)-5-cyano-6-bromomethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C#N)CBr)=NNC2 | C14H10BrClN4
reactant | N-methylhomopiperazine | CN1CCNCCC1 | C6H14N2
product | 4-(2-Chlorophenyl)-5-cyano-4,7-dihydro-6-(4-methyl-homopiperazin-1-yl)methyl-2H-pyrazolo[3,4-b]pyridine dihydrochloride | Cl.Cl.ClC1=C(C=CC=C1)C1C=2C(NC(=C1C#N)CN1CCN(CCC1)C)=NNC2 | InChI=1S/C20H23ClN6.2ClH/c1-26-7-4-8-27(10-9-26)13-18-15(11-22)19(14-5-2-3-6-17(14)21)16-12-23-25-20(16)24-18;;/h2-3,5-6,12,19H,4,7-10,13H2,1H3,(H2,23,24,25);2*1H
